US06855710B2
(Z,R)-3-{1-[4-(1-aminoethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride
Prepared analogously to Example 29a from (Z,R)-3-{1-[4-(1-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone and ethyl acetate/hydrogen chloride.

reactant | (Z,R)-3-{1-[4-(1-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)N[C@H](C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C28H28N4O5
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
product | (Z,R)-3-{1-[4-(1-aminoethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone-hydrochloride | Cl.N[C@H](C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C23H20N4O3.ClH/c1-14(24)15-7-9-17(10-8-15)25-22(16-5-3-2-4-6-16)21-19-13-18(27(29)30)11-12-20(19)26-23(21)28;/h2-14,25H,24H2,1H3,(H,26,28);1H/b22-21-;/t14-;/m1./s1
